Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.17435061245
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.38907386793
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],4.62043492643
[C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[H:1][O:2]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-6.708693310090001
[H:11].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11],-4.1395156165800016
[O:1]=[C:2]([C:3]([H:4])[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2](=[C:3](\[H:4])[O:5][C:6]([H:7])[H:8])\[C:9]([H:10])([H:11])[H:12].[O:1],6.374001199099999
[C:3](=[O:4])[C:5]([H:6])([H:7])[C:8][H:9].[O:1]=[C:2]>>[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])([H:7])[C:8][H:9],-0.48259056867
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9],4.07507111872
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[O:4],4.0334072232199984
[C:1]=[O:2].[C:3]([O:4][C:5][H:6])=[C:7]([H:8])[H:9]>>[C:1][O:2][C:3]([O:4][C:5][H:6])=[C:7]([H:8])[H:9],1.26113853651
[C:1]#[C:2][C:3]([H:4])[O:5][O:6][H:7]>>[C:1]#[C:2][C:3]([H:4])=[O:5].[O:6][H:7],2.24115862504
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:2]([H:3])#[C:7][C:8]([H:9])[H:10].[O:1][C:5](=[O:4])[H:6],3.47522721018
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9].[H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],-3.89648361809
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[O:5],-0.148154397179
[H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-4.12157795089
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3][C:4](=[O:5])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.92753488051
[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-1.6421313026700002
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[O:11].[H:12],3.97485221735
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6][H:7])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:8],4.78653340298
[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:6].[O:1]=[C:2]([H:3])[C:4]([O:5])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],4.67832326504
[C:1]#[C:2][C:4](=[O:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:3]>>[C:1]=[C:2]([H:3])[C:4](=[O:5])[O:6][C:7]([H:8])([H:9])[H:10],-4.05942024285
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],4.1945093501
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:3],4.97093070753
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],0.6489206747699999
[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:10].[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[O:11][H:12],3.88193811223
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][H:7]>>[O:1]=[C:2](/[C:3]=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.26341765025
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:12]([C:9]([H:10])[H:11])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]1([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],0.16018549338
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[C:4]([H:5])[O:6][C:7]([H:8])[H:9].[H:1][C:2]#[C:3],5.95036626288
[H:10].[H:1][O:2][O:3][C:4]([H:5])[C:6][C:7]#[C:8][H:9]>>[H:1][O:2][O:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])[H:10],-4.23810103124
